US07429583B2
b) tert-butyl [3-(2-amino-5-methyl-phenylamino)-3-methyl-butyl]-carbamate
4.71 g (14.0 mmol) tert-butyl [3-methyl-3-(5-methyl-2-nitro-phenylamino)-butyl]-carbamate are dissolved in 110 mL methanol and hydrogenated in the presence of 340 mg palladium on charcoal (10%) at ambient temperature. Then the catalyst is separated off and the solvent is distilled off. Brown solid. Yield: 3.72 g (87%); mass spectroscopy: [M+H]+=308.

reactant | tert-butyl [3-methyl-3-(5-methyl-2-nitro-phenylamino)-butyl]-carbamate | 14.0 mmol, 4.71 g | CC(CCNC(OC(C)(C)C)=O)(C)NC1=C(C=CC(=C1)C)[N+](=O)[O-] | C17H27N3O4
solvent | methanol | 110 mL | CO | CH4O
catalyst | palladium on charcoal | 340 mg | [Pd] | Pd
product | tert-butyl [3-(2-amino-5-methyl-phenylamino)-3-methyl-butyl]-carbamate | NC1=C(C=C(C=C1)C)NC(CCNC(OC(C)(C)C)=O)(C)C | C17H29N3O2
